US08865713B2
Step C: 2,6-Dichloro-5-trifluoromethoxy-1H-benzoimidazole.
Thoroughly dried 5-chloro-6-trifluoromethoxy-1,3-dihydro-benzoimidazol-2-one (154.6 g, 0.61 mol, 1.0 equiv.) was suspended in POCl3 (450 mL, 8.0 equiv.). The reaction solution was heated to reflux temperature for 6 hours and cooled to room temperature. The solution was poured into crushed ice/water (˜3 L) slowly with sufficient stirring. The solution was neutralized to pH=6.0 with NaOH. The precipitated solid was collected by filtration, washed with water, and dried to afford the title compound (159.97 g, 96%). The crude product was used in the following reaction without further purification.

reactant | 5-chloro-6-trifluoromethoxy-1,3-dihydro-benzoimidazol-2-one | 0.61 mol, 154.6 g, 1.0 equiv. | ClC1=CC2=C(NC(N2)=O)C=C1OC(F)(F)F | C8H4ClF3N2O2
reactant | POCl3 | 450 mL, 8.0 equiv. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
product | 2,6-Dichloro-5-trifluoromethoxy-1H-benzoimidazole | 159.97 g, 96% | ClC1=NC2=C(N1)C=C(C(=C2)OC(F)(F)F)Cl | C8H3Cl2F3N2O
